US07109354B2
a) 6-Methyl-biphenyl-3-ylamine
To a dried flask was added 3-bromo-4-methyl-phenylamine (1 g, 5.37 mmol), phenyl boronic acid (2.62 g, 21.5 mmol), aqueous Na2CO3 (2M, 21.5 mL, 43 mmol), ethanol (21.5 mL), and toluene (43 mL). The flask was sparged with Ar, and Pd(PPh3)4 (1.55 g, 1.34 mmol) was added. The reaction mixture was stirred and heated at 80° for 18 hrs, then cooled to room temperature. The solvent was removed in vacuo and the residue was dissolved in ethyl acetate. The organic layer was washed with water and brine, then dried over MgSO4. The solvent was removed in vacuo and the residue was purified via column chromatography (SiO2, 5% DCM/hexane) to afford a yellow oil (463 mg, 47%). This was directly used in the next step.

reactant | 3-bromo-4-methyl-phenylamine | 5.37 mmol, 1 g | BrC=1C=C(C=CC1C)N | C7H8BrN
reactant | phenyl boronic acid | 21.5 mmol, 2.62 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 43 mmol, 2M, 21.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | ethanol | 21.5 mL | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 1.34 mmol, 1.55 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 43 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Methyl-biphenyl-3-ylamine | 463 mg, 47% | CC1=CC=C(C=C1C1=CC=CC=C1)N | C13H13N
